US07777038B2
8-Methoxy-1-methyl-3,4-dihydro-1H-quinolin-2-one (1.5 g) was dissolved in dichloromethane (15 ml), and dichloromethyl methyl ether (0.86 ml) was added at room temperature, followed by cooling with ice water. Titanium tetrachloride (10.5 ml) was added dropwise, and the resulting mixture was stirred at room temperature overnight. Further, dichloromethyl methyl ether (1.29 ml) and titanium tetrachloride (15.8 ml) were added, and stirring was carried out at room temperature for 5 hours. The reaction mixture was poured into ice water, and the aqueous layer was subjected to extraction with dichloromethane. The organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure. Hexane was added to the residue, and the produced insoluble matter was collected by filtration and dried to thereby obtain 1.37 g (yield: 80%) of 8-methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydroquinoline-5-carboxaldehyde.

reactant | 8-Methoxy-1-methyl-3,4-dihydro-1H-quinolin-2-one | 1.5 g | COC=1C=CC=C2CCC(N(C12)C)=O | C11H13NO2
reactant | dichloromethyl methyl ether | 0.86 ml | COC(Cl)Cl | C2H4Cl2O
reactant | dichloromethyl methyl ether | 1.29 ml | COC(Cl)Cl | C2H4Cl2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | Titanium tetrachloride | 10.5 ml | [Ti](Cl)(Cl)(Cl)Cl
catalyst | titanium tetrachloride | 15.8 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 8-methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydroquinoline-5-carboxaldehyde | 1.37 g, yield: 80% | COC1=CC=C(C=2CCC(N(C12)C)=O)C=O | C12H13NO3
